US09164384B2
Synthesis of bis(3,5-dimethylphenyl)-(4-fluorophenyl)-sulfonium bromide (PAG Intermediate 35)
To a Grignard reagent prepared from 79 g of 1-bromo-4-fluorobenzene, 13 g of bis(3,5-dimethylphenyl) sulfoxide obtained in Synthesis Example 1-46 and 50 g of methylene chloride were added. Under ice cooling, 16 g of trimethylsilyl chloride was added dropwise to the solution, which was aged for 30 minutes. To the reaction solution, 50 g of 3 wt % dilute hydrochloric acid was added to quench the reaction. The organic layer was separated. Without further purification, it was ready for use in the subsequent reaction.

reactant | 1-bromo-4-fluorobenzene | 79 g | BrC1=CC=C(C=C1)F | C6H4BrF
reactant | bis(3,5-dimethylphenyl) sulfoxide | 13 g | CC=1C=C(C=C(C1)C)S(=O)C1=CC(=CC(=C1)C)C | C16H18OS
reactant | trimethylsilyl chloride | 16 g | C[Si](C)(C)Cl | C3H9ClSi
reactant | hydrochloric acid | Cl | ClH
solvent | methylene chloride | 50 g | C(Cl)Cl | CH2Cl2
product | bis(3,5-dimethylphenyl)-(4-fluorophenyl)-sulfonium bromide | [Br-].CC=1C=C(C=C(C1)C)[S+](C1=CC=C(C=C1)F)C1=CC(=CC(=C1)C)C | InChI=1S/C22H22FS.BrH/c1-15-9-16(2)12-21(11-15)24(20-7-5-19(23)6-8-20)22-13-17(3)10-18(4)14-22;/h5-14H,1-4H3;1H/q+1;/p-1
